US05608056
To a solution of (2R,4R)-4-(t-butyldimethylsilyloxy)-2-{(1-methylimidazol-2-yl)methyl}pyrrolidineformate (20.0 g) in tetrahydrofuran (300 ml) and water (200 ml) was added dropwise a solution of allyl chloroformate (7.45 ml) in THF (20 ml), adjusting pH to 9.0~9.5 with 5N-aqueous sodium hydroxide solution, at -3°~1° C. over 10 minutes. The mixture was stirred at the same temperature for 50 minutes. To the reaction mixture was added ethyl acetate (600 ml) and ice water (400 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 ml). The combined organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-{(1-methylimidazol-2-yl) methyl}pyrrolidine (20.5 g) as an oil.

reactant | (2R,4R)-4-(t-butyldimethylsilyloxy)-2-{(1-methylimidazol-2-yl)methyl}pyrrolidineformate | 20.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)[O-])CC=1N(C=CN1)C
reactant | allyl chloroformate | 7.45 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-{(1-methylimidazol-2-yl) methyl}pyrrolidine | 20.5 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC=1N(C=CN1)C | C19H33N3O3Si
